US05506256
A) (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine
By the same procedure as in Example 26-D), while using (2S)-1-(tert-butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine (1.93 g) and N-(tert-butoxycarbonyl)-L-proline (1.36 g), there was obtained 2. i0 g of the title compound.

reactant | (2S)-1-(tert-butoxycarbonyl)-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | 1.93 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=CC=C1)O | C17H25NO4
reactant | N-(tert-butoxycarbonyl)-L-proline | 1.36 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
product | (2S)-1-[N-(tert-Butoxycarbonyl)-L-prolyl]-2-(1-hydroxy-2-phenoxyethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=CC=C2)O)CCC1 | C22H32N2O5
